US05116862
4-n-Propyl-1-[2-(prop-2-ynyloxy)ethyl]-2,6,7-trioxabicyclo[2.2.2]octane was prepared from 3-(prop-2-ynyloxy)propionic acid and 3-hydroxymethyl-3-n-propyloxetane using methodology described in Example I.

reactant | 3-(prop-2-ynyloxy)propionic acid | C(C#C)OCCC(=O)O | C6H8O3
reactant | 3-hydroxymethyl-3-n-propyloxetane | OCC1(COC1)CCC | C7H14O2
product | 4-n-Propyl-1-[2-(prop-2-ynyloxy)ethyl]-2,6,7-trioxabicyclo[2.2.2]octane | C(CC)C12COC(OC1)(OC2)CCOCC#C | C13H20O4
